US03996376
A mixture of 15 grams of 2,2-bis(trifluoromethyl)-4-hydroxymethyl-1,3-dioxolane (0.0625 mols), 8.12 grams NaOCN (0.125 mols), and 75 ml methylene dichloride is stirred at 25°-35° C. while 14.3 grams trifluoroacetic acid is added dropwise. The mixture is stirred for 16 hours at 40° C. The product is filtered and the filter cake washed with methylene dichloride. The filtrate is washed with water and dried over Na2SO4 prior to vacuum-stripping. The reaction product is recrystallized from 1 part benzene to yield 2,2-bis(trifluoromethyl)-4-carbamoyloxymethyl-1,3-dioxolane (m.p. 52°-54° C.)

reactant | 2,2-bis(trifluoromethyl)-4-hydroxymethyl-1,3-dioxolane | 0.0625 mols, 15 grams | FC(C1(OCC(O1)CO)C(F)(F)F)(F)F | C6H6F6O3
reactant | NaOCN | 0.125 mols, 8.12 grams | O([Na])C#N
reactant | trifluoroacetic acid | 14.3 grams | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene dichloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2,2-bis(trifluoromethyl)-4-carbamoyloxymethyl-1,3-dioxolane | FC(C1(OCC(O1)COC(N)=O)C(F)(F)F)(F)F | C7H7F6NO4
